US04034101
N-Methyl-N'-[4-(2-thiazolyl)butyl]thiourea was converted into its hydriodide salt with 66% hydriodic acid. This salt was dissolved in methanol, methyl iodide added and the solution heated under reflux for 2 hours. Concentration and crystallisation of the resultant oil gave N,S-dimethyl-N'-[4-(2-thiazolyl)butyl]isothiourea dihydriodide. Reaction of this isothiourea with hydroxylamine by the procedure of Example 1 (ii) gave the title product.

reactant | N-Methyl-N'-[4-(2-thiazolyl)butyl]thiourea | CNC(=S)NCCCCC=1SC=CN1 | C9H15N3S2
reactant | hydriodide | I | HI
reactant | methyl iodide | CI | CH3I
solvent | methanol | CO | CH4O
product | N,S-dimethyl-N'-[4-(2-thiazolyl)butyl]isothiourea dihydriodide | I.I.CNC(SC)=NCCCCC=1SC=CN1 | InChI=1S/C10H17N3S2.2HI/c1-11-10(14-2)13-6-4-3-5-9-12-7-8-15-9;;/h7-8H,3-6H2,1-2H3,(H,11,13);2*1H
